US05861414
(iv) {4-[6-(2-Piperidin-4-yl-(E)-vinyl)-1H-indazol-3-yl]-piperidin-1-yl}-acetic acid, hydrochloride hydrate
A suspension of {4-[6-(2-piperidin-4-yl-(E)-vinyl)-1H-indazol-3-yl]-piperidin-1-yl}-acetic acid (20.5 g) in water (41 ml) was carefully adjusted to pH 5.7 with 2M hydrochloric acid (27 ml). The resulting solution was filtered through 1 micron graded glass fibre filter paper and the filter washed through with water (2×20.5 ml). Isopropanol (219 ml) was added dropwise to the stirred filtrate over 0.25 h at 22°, and the solution was seeded with product crystals (10 mg). The mixture was allowed to crystallise for 0.5 h, stirred at 22° for 1.5 h, and further isopropanol (219 ml) was added slowly over 0.5 h. After stirring for a further 3 h at 22° the suspension was filtered. The filter cake was washed with a mixture of isopropanol:water (4:1, 2×41 ml) and dried in vacuo at 45° for 6 h to give the title compound as a white solid (14.1 g).

reactant | {4-[6-(2-piperidin-4-yl-(E)-vinyl)-1H-indazol-3-yl]-piperidin-1-yl}-acetic acid | 20.5 g | N1CCC(CC1)/C=C/C1=CC=C2C(=NNC2=C1)C1CCN(CC1)CC(=O)O | C21H28N4O2
reactant | hydrochloric acid | 2M, 27 ml | Cl | ClH
solvent | water | 41 ml | O | H2O
product | {4-[6-(2-Piperidin-4-yl-(E)-vinyl)-1H-indazol-3-yl]-piperidin-1-yl}-acetic acid, hydrochloride hydrate | 14.1 g | O.Cl.N1CCC(CC1)/C=C/C1=CC=C2C(=NNC2=C1)C1CCN(CC1)CC(=O)O | InChI=1S/C21H28N4O2.ClH.H2O/c26-20(27)14-25-11-7-17(8-12-25)21-18-4-3-16(13-19(18)23-24-21)2-1-15-5-9-22-10-6-15;;/h1-4,13,15,17,22H,5-12,14H2,(H,23,24)(H,26,27);1H;1H2/b2-1+;;
